US04720495
86 g (1.00 mole) of β-butyrolactone was added to 146 g (1.00 mole) of 3-chloro-4-fluoroaniline, and this mixture was stirred at 80°-90° C. for 30 minutes and then allowed to cool to room temperature. To the resulting reaction solution was added 1000 ml of ether. This mixture was filtered to remove any insoluble matter, and the filtrate thus obtained was extracted with 750 ml of a 2N aqueous solution of sodium hydroxide. This extract was acidified with 130 ml of concentrated hydrochloric acid and then extracted with 1000 ml of ether. The ether layer was separated, dried over anhydrous sodium sulfate and then evaporated to dryness. Thus, there was obtained 111 g (47.9% yield) of 3-(3-chloro-4-fluoro-anilino) butyric acid in the form of pale-yellow oily matter.

reactant | β-butyrolactone | 1.00 mole, 86 g | C1(CC(C)O1)=O | C4H6O2
reactant | 3-chloro-4-fluoroaniline | 1.00 mole, 146 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
solvent | ether | 1000 ml | CCOCC | C4H10O
product | 3-(3-chloro-4-fluoro-anilino) butyric acid | 111 g, 47.9% yield | ClC=1C=C(NC(CC(=O)O)C)C=CC1F | C10H11ClFNO2
